US06706723B2
Sodium metal (8.6 g, 0.38 mol) was added to ethanol (375 mL), and the mixture was stirred at ambient temperature until homogeneous. Diethyl malonate (60 g, 0.38 mol) was added, followed by bromoethyl ethyl ether (57.4 g, 0.38 mol). After stirring at reflux for 3 hours, the mixture was cooled to ambient temperature and concentrated in vacuo. The resulting material was added to a mixture of sodium ethoxide and ethanol (prepared by the reaction of 17.2 g of sodium metal with 600 mL of methanol). Urea (24 g) was added, and the resulting mixture was refluxed for 2.5 hours. After cooling to ambient temperature, the mixture was stirred for 12 hours, acidified with 1M hydrochloric acid solution, extracted three times with ethyl acetate, and the combined organic layers were dried over sodium sulfate (Na2SO4), filtered and concentrated in vacuo, affording 5-(2-ethoxy-ethyl)-pyrimidine-2,4,6-trione as a colorless solid.

reactant | Sodium | 0.38 mol, 8.6 g | [Na] | Na
reactant | Diethyl malonate | 0.38 mol, 60 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | bromoethyl ethyl ether | 0.38 mol, 57.4 g | C(C)OCCBr | C4H9BrO
reactant | Urea | 24 g | NC(=O)N | CH4N2O
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | ethanol | 375 mL | C(C)O | C2H6O
product | 5-(2-ethoxy-ethyl)-pyrimidine-2,4,6-trione | C(C)OCCC1C(NC(NC1=O)=O)=O | C8H12N2O4
